US05455267
A mixture consisting of 7.01 g (24.59 mmol) 5-hydroxy-7-isopropoxy-2-methylsulfinylchromone, 3.72 g (29.51 mmol) 4-hydroxybenzenethiol, 4.07 g (29.51 mmol) potassium carbonate, and 170 ml acetone was stirred over 1 hour at room temperature. The solution thus reacted was neutralized by addition of dilute hydrochloric acid. Subsequently, the product was extracted twice with chloroform. The organic layer was washed with saturated salt water and dried over sodium sulfate anhydride. The solvent was distilled out under reduced pressure. The resulting crude product was subjected to recrystallization from ethanol-methanol, whereby 6.64 g of 5-hydroxy2-(4-hydroxyphenylthio)-7-isopropoxychromone was obtained (yield: 78%).

reactant | 5-hydroxy-7-isopropoxy-2-methylsulfinylchromone | 24.59 mmol, 7.01 g | OC1=C2C(C=C(OC2=CC(=C1)OC(C)C)S(=O)C)=O | C13H14O5S
reactant | 4-hydroxybenzenethiol | 29.51 mmol, 3.72 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium carbonate | 29.51 mmol, 4.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 170 ml | CC(=O)C | C3H6O
product | 5-hydroxy2-(4-hydroxyphenylthio)-7-isopropoxychromone | 6.64 g, yield: 78% | OC1=C2C(C=C(OC2=CC(=C1)OC(C)C)SC1=CC=C(C=C1)O)=O | C18H16O5S
